US06521754B2
(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid 2-methoxy-ethyl ester
4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine (300 mg, 1.1 mmol) and N-ethyldiisopropylamine (0.56 ml, 3.4 mmol) were dissolved in tetrahydrofurane (11 ml) and 2-methoxyethyl chloroformate (0.19 ml, 1.4 mmol) were added over 5 min. Then the mixture was heated to 70° C. for 3 h. The mixture was cooled to room temperature, water added and extracted twice with ethyl acetate. TRhe combined organic phases were dryed with Na2SO4 and evapprated to dryness. The title compound was obtained as off-white solid (52%). MS: m/e=368 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | 1.1 mmol, 300 mg | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | N-ethyldiisopropylamine | 3.4 mmol, 0.56 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethyl chloroformate | 1.4 mmol, 0.19 ml | ClC(=O)OCCOC | C4H7ClO3
reactant | water | O | H2O
solvent | tetrahydrofurane | 11 ml | O1CCCC1 | C4H8O
product | (4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid 2-methoxy-ethyl ester | COCCOC(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O | C16H21N3O5S
